US07754105B2
Synthetic method of 2-Phenyl-4-(2-naphthyl)-5-methylimidazole
Benzamidine hydrochloride and an equimolar amount of sodium methylate were heated under reflux in tetrahydrofuran for 1 hour. After cooling, a tetrahydrofuran solution of an equimolar amount of 2-bromo-2′-propionaphthone was added dropwise thereto so that the temperature did not exceed 30° C., and then an equimolar amount of sodium methylate was further added, followed by heating under reflux for 1 hour. After removal of the solvent by distillation under reduced pressure, the residue was washed with water and subjected to recrystallization from acetonitrile to obtain grayish blue crystals.

reactant | Benzamidine hydrochloride | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium methylate | C[O-].[Na+]
reactant | 2-bromo-2′-propionaphthone | BrC(C(=O)C1=CC2=CC=CC=C2C=C1)C | C13H11BrO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Phenyl-4-(2-naphthyl)-5-methylimidazole | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC2=CC=CC=C2C=C1)C | C20H16N2
